US08242130B2
1-(2-Amino-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione (375 mg, 1.49 mmol) was dissolved in 48% HBr (15 mL) and refluxed for 16 h. The solvent was removed at reduced pressure. The solids were taken into water and neutralized by NaHCO3. Solids were collected and purified by column chromatography using 5% MeOH in DCM to give 350 mg of 2-(4-hydroxy-phenyl)-1H-quinolin-4-one (98%). MS (ES): m/z: 238.1 (M+1).

reactant | 1-(2-Amino-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione | 1.49 mmol, 375 mg | NC1=C(C=CC=C1)C(CC(=O)C1=CC=C(C=C1)OC)=O | C16H15NO3
solvent | HBr | 15 mL | Br | BrH
product | 2-(4-hydroxy-phenyl)-1H-quinolin-4-one | 350 mg, 98% | OC1=CC=C(C=C1)C=1NC2=CC=CC=C2C(C1)=O | C15H11NO2
